US08580762B2
Step 9: Synthesis of ethyl 3-(3-oxocyclobutyl)propanoate
A solution of ethyl 3-(2,2-dichloro-3-oxocyclobutyl)propanoate (10.49 g, 43.87 mmol) and ammonium chloride (12 g, 220 mmol) in methanol (310 mL, 7600 mmol) was treated in small portions with zinc powder (14 g, 220 mmol). The reaction mixture was heated at reflux for 3 h after which time GC indicated the reaction was complete. The reaction mixture was cooled to room temperature and was filtered through Celite, washing the pad with Et2O. The filtrate was concentrated in vacuo to afford pale yellow solution. The solution was diluted with 200 mL Et2O and washed with 100 mL water. The separated aqueous layer was back extracted with 100 mL Et2O and the combined organic phase was washed with 100 mL 1:1 water/brine, 50 mL water, and 150 mL saturated aqueous NaHCO3. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to afford the title compound (4.49 g, 60%) as a pale yellow oil which was of sufficient purity for use in the next step: GC purity >95% (ret. time, 4.24 min).

reactant | ethyl 3-(2,2-dichloro-3-oxocyclobutyl)propanoate | 43.87 mmol, 10.49 g | ClC1(C(CC1=O)CCC(=O)OCC)Cl | C9H12Cl2O3
reactant | ammonium chloride | 220 mmol, 12 g | [Cl-].[NH4+]
reactant | methanol | 7600 mmol, 310 mL | CO | CH4O
solvent | Et2O | 200 mL | CCOCC | C4H10O
catalyst | zinc | 220 mmol, 14 g | [Zn] | Zn
product | ethyl 3-(3-oxocyclobutyl)propanoate | 4.49 g, 60% | O=C1CC(C1)CCC(=O)OCC | C9H14O3
